US06200981B1
i) 3-Bromomethyl-5-[2-methoxyethoxymethyl]benzoic acid ethyl ester
Sodium hydride (0.357 g, 60% dispersion in oil) was added to 2methoxyethanol (10 ml) with stirring. After 10 minutes 3,5-bis[bromomethyl]benzoic acid ethyl ester (J. Chem. Soc. Chem. Commun. 1992, 22, 1647) (3 g) was added and the mixture stirred for 3 hours. The mixture was partitioned between ethyl acetate and water. The organic phase was dried (MgSO4) and evaporated. Purified by chromatography eluting with 20% ethyl acetate in isohexane. Yield 0.45 g.

reactant | Sodium hydride | 0.357 g | [H-].[Na+]
reactant | 3,5-bis[bromomethyl]benzoic acid ethyl ester | 3 g | C(C)OC(C1=CC(=CC(=C1)CBr)CBr)=O | C11H12Br2O2
reactant | 2methoxyethanol | 10 ml | COCCO | C3H8O2
product | 3-Bromomethyl-5-[2-methoxyethoxymethyl]benzoic acid ethyl ester | C(C)OC(C1=CC(=CC(=C1)COCCOC)CBr)=O | C14H19BrO4
